datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:11](=[N:10][C:61](C)=[O:62])[O-:12].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C:11]([N:10]([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]1)[C:61](C)=[O:62])=[O:12] 10,11=10,20;12=11,12"
"C[N+:21](C1=CC=CC=C1)=[CH2:20].[O-:10][C:61]1=[C:62]([N+:63](=[O:64])[O-:74])[CH:83]=[CH:84][CH:85]=[CH:86]1>>C[N:21](C1=CC=CC=C1)[CH2:20][O:10][C:61]1=[C:62]([N+:63](=[O:64])[O-:74])[CH:83]=[CH:84][CH:85]=[CH:86]1 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].COC1=CC=CC(OC)=C1[P:10](C1=C(OC)C=CC=C1OC)C1=C(OC)C=CC=C1OC>>COC1=CC=CC(OC)=C1[P+:10](C1=C(OC)C=CC=C1OC)(C1=C(OC)C=CC=C1OC)[CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C/[CH:63]=[CH:62]/[CH:11]=[CH2:10].CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][CH+:11]/[CH:62]=[CH:63]/C)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C/[CH:63]=[CH:62]\[CH:11]=[CH2:10].C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][CH2:10][CH+:11]/[CH:62]=[CH:63]\C)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[CH:10]=[CH:11]/[N:12](C)C)=[O:62].C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>CC[O:72][C:61]([CH:10]([CH:11]=[N+:12](C)C)[CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[N:33](C)C)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1C[S:31][CH+:20][S:41]C1.[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1>>C1C[S:31][CH:20]([CH:10]([N+:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]2)[S:41]C1 10,11=10,20;12=11,12"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.CC1=CC=[C:10]([B:11]2[O:12]C(C)(C)C(C)(C)[O:62]2)O1>>CC1(C)C(C)(C)[O:62][B:11]=[O+:12]1.CC1=CC=[C:10]([CH2:20][C:21]2=[C:22]([O-:23])[O:33]CCC2)O1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:11](C)(CC1=CC=CC=C1)[H:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>C[Si+:11](C)CC1=CC=CC=C1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1 10,11=10,20"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[N:62]1[CH:61]=[N:10][C:64]2=[C:63]1C=CC=C2>>CC[O:34][C:32]([C:21]([CH:20]([N+:10]1=[CH:61][N:62](C)[C:63]2=[C:64]1C=CC=C2)[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C[N+:21](C1=CC=CC=C1)=[CH2:20].C[Si](C)(C)[N:62]1[CH:61]=[N:10][CH:64]=[CH:63]1>>C[Si](C)(C)[N:62]1[CH:61]=[N+:10]([CH2:20][N:21](C)C2=CC=CC=C2)[CH:64]=[CH:63]1 10=20;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.C[C:11](=[CH2:10])[O:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][C:11](C)=[O+:12][Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.C[N:12]1C2=C(C=CC=C2)[S:62]/[C:11]1=[CH:10]/C1=CC=CC=C1>>C[N+:12]1=[C:11]([CH:10](C2=CC=CC=C2)[C:20]2([O-:21])CCSCC2)[S:62]C2=C1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"CC12C3(C)C4(C)C5(C)C1(C)[W-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC12C3(C)C4(C)C5(C)C1(C)[W-2:11]2345(C#[O+])(C#[O+])C#[O+].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2:20][H:10])[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"C[C:11]1=[N:10][CH:61]=[C:62](C)[N-:12]1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[C:11]1=[N:12][C:62](C)=[CH:61][N:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]1 10,11=10,20;12=11,12"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>CC(C)(C1=CC=CC=C1)[O-:21].FC(F)(F)[S:20][CH:10]([C:11]#[N:12])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1 10,11=10,20;12=11,12;20,21=21"
"CC[C:11](C)=[CH2:10].F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>CC[C+:11](C)[CH2:10][CH:20](C1=CC=CC=C1)[CH-:21][S:32](F)(=[O:33])=[O:34] 10,11=10,20;20,21=21"
